US06951848B2
2-Methyl-5-nitro-1H-indole-3-carboxylic acid benzyl ester
NaH (60% in oil) (1.75 g, 43.80 mmol, 2 eq) was washed with dry hexanes under nitrogen in the normal way to remove oil. The NaH and hexanes dispersion was stirred for 2 minutes. NaH was allowed to settle, and the supernatant liquid was removed with syringe. Repeated the washing operation with additional 20 mL hexanes. DMF (10 mL) was added to the reaction flask, covered the gray solid. benzyl acetoacetate (6.56 mL, 32.80 mmol, 1.5 eq) was added dropwise with syringe, at the same time, hydrogen was released. After several minutes, when the evolution of hydrogen was stopped, CuI (6.25 g, 32.80 mmol, 1.5 eq) was added to the yellow solution. The color of the solution changed to orange and then to brown. 2-Iodo-4-nitro-phenylamine (5.19 g, 21.9 mmol, 1.0 eq) was added to the brown solution, and the mixture was heated to 120° C.-130° C. in the heating control oil bath. The color of the reaction mixture further darkened as the temperature increased. The mixture was stirred for 16 hours, cooled to room temperature, poured into 1N HCl solution (100 mL), the aqueous solution was extracted with ethyl acetate (3×200 mL). Some precipitate went into the organic phase. The combined organic solution was dried over MgSO4, filtered and concentrated in vacuo to gave a dark brown oil which was purified by flash chromatography (SiO2, 60:40 hexanes-ethyl acetate) to yield the mixture of the desired indole and 4-nitroaniline (1.22 g) as a dark brown solid. The mixture was carried over to the next step.

reactant | NaH | 43.80 mmol, 1.75 g, 2 eq | [H-].[Na+]
reactant | benzyl acetoacetate | 32.80 mmol, 6.56 mL, 1.5 eq | C(CC(=O)C)(=O)OCC1=CC=CC=C1 | C11H12O3
reactant | hydrogen | [H][H] | H2
reactant | 2-Iodo-4-nitro-phenylamine | 21.9 mmol, 5.19 g, 1.0 eq | IC1=C(C=CC(=C1)[N+](=O)[O-])N | C6H5IN2O2
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 4-nitroaniline | 1.22 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
catalyst | CuI | 32.80 mmol, 6.25 g, 1.5 eq | [Cu]I
solvent | HCl | 1N, 100 mL | Cl | ClH
product | 2-Methyl-5-nitro-1H-indole-3-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1=C(NC2=CC=C(C=C12)[N+](=O)[O-])C | C17H14N2O4
